US06037342
5,7-Dimethyl-2-(4-methyl-1,4-diazacyclooctanyl)benzoxazole
5,7-Dimethyl-2-(1,4-diazacyclooctanyl)benzoxazole (135 mg) was dissolved in methanol (3 ml), and the solution was mixed with 37% formaldehyde solution (1 ml) and 1 N hydrochloric acid (0.5 ml). This was further mixed with 10% palladium-carbon (10 mg) and stirred overnight in an atmosphere of hydrogen. After removing the catalyst by celite filtration, the filtrate was washed with ethyl acetate and then the solvent was evaporated. The thus obtained residue was extracted with 1 N hydrochloric acid and ethyl acetate, and the resulting water layer was adjusted to pH 8 with potassium carbonate and extracted with methylene chloride. The organic layer was dried with magnesium sulfate and the solvent was evaporated to obtain the title compound 5,7-dimethyl-2-(4-methyl-1,4-diazacyclooctanyl)benzoxazole (50 mg).

reactant | 5,7-Dimethyl-2-(1,4-diazacyclooctanyl)benzoxazole | 135 mg | CC=1C=C(C2=C(N=C(O2)N2CCNCCCC2)C1)C | C15H21N3O
reactant | formaldehyde | 1 ml | C=O | CH2O
reactant | hydrochloric acid | 1 N, 0.5 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 3 ml | CO | CH4O
catalyst | palladium-carbon | 10 mg | [C].[Pd]
product | 5,7-dimethyl-2-(4-methyl-1,4-diazacyclooctanyl)benzoxazole | 50 mg | CC=1C=C(C2=C(N=C(O2)N2CCN(CCCC2)C)C1)C | C16H23N3O
